US05284841
Step A: 2-tert-Butyldimethylsilyloxymethyl-thiophene
A 100 ml round-bottom flask, equipped with a magnetic stirring bar, septum, and nitrogen inlet, was charged with 500 μl (3.98 mmol, 1.0 equiv) 2-thiophenemethanol and 5 ml DMF (over sieves). This clear solution was cooled down to 0° C. 825 mg (11.95 mmol, 3.0 equiv) imidazole was added in one portion, followed by the addition of 930 mg (5.97 mmol, 1.5 equiv) t-butyldimethylsilyl chloride. The reaction was kept at 0° C. for 5 minutes, warmed up to room temperature to go for half an hour, and then quenched with distilled water. Ethyl acetate was added to dissolve the organics. Layers were separated, and the aqueous layer was extracted with 5×10 ml ethyl acetate. The combined organic portion was washed with 5×20 ml H2O, dried over anhydrous sodium sulfate, filtered, concentrated, and chromatographed on a silica gel column (5 cm×24 cm, 100:1=hexane:ethyl acetate) to afford 1 gram of the title compound: Rf=0.26 (100:1=hexane:ethyl acetate), 1H NMR δ4.87 (s, OCH2), 0.91 (s, tBu), 0.09 (s, CH3).

reactant | 2-thiophenemethanol | 3.98 mmol, 500 μl, 1.0 equiv | S1C(=CC=C1)CO | C5H6OS
reactant | imidazole | 11.95 mmol, 825 mg, 3.0 equiv | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 5.97 mmol, 930 mg, 1.5 equiv | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-tert-Butyldimethylsilyloxymethyl-thiophene | 1 gram | [Si](C)(C)(C(C)(C)C)OCC=1SC=CC1 | C11H20OSSi
